Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Morphine
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
cardiac catheterization
 
History of Present Illness:
Mr. ___ is a ___ with DM and CAD s/p CABG who presented to an 
OSH on ___ with CP. He lives in ___ and was visiting family 
for ___. He has chronic angina with baseline tolerance of 
approximately 2 flights of stairs. He says he has had multiple 
admissions for CHF exacerbations this year.
.
Over the week preceding his admission, he noticed that his chest 
pain was occuring at lower levels of exertion, and was also 
occuring at rest. The discomfort felt like a pressure sensation, 
similar to past angina. It was substernal in location without 
radiation. Symptoms were accompanied by dyspnea. He was woken up 
from sleep with the chest discomfort the morning of admission, 
with accompanying cough and diaphoresis. At that point, he 
decided to seek evaluation at the OSH ED.
.
Of note, in the two weeks preceding his presentation he had 
developed increased lower extremity edema and 15lb weight gain. 
He denied PND but did have ___ pillow orthopnea. Had been told 
by his PCP ~2 weeks PTA to discontinue lasix. Says he has been 
otherwise compliant with his medications and salt restriction. 
Of note, he had chronic nose bleeds ___ years, denies other 
bleeding problems including melena or hematochezia. No fevers, 
chills, sweats, change in bowel habits, or h/o thrombosis.
.
At the OSH, on admission to the ICU, vitals were T 97.7 P 92 BP 
119/74 RR 20 O2 96% on 2L. His labs were notable for WBC 12, 
Hb/Hct ___, Plts 216k, Cr 1.1, Tropn 0.04, CK 66, and BNP of 
598. Stool was guiac negative. CXR reportedly was c/w mild 
pulmonary edema. EKG at admission was significant for diffuse 
TWI and ST depression in anterolateral leads. He was treated 
with IV lasix and placed on a nitroglycerin drip, and was 
transfused total of 4 units PRBCs. His troponin and CK reached 
peaks of 13 and 349 respectively on ___.
.  
The patient was transferred to ___ on ___ for planned cardiac 
catheterization on ___.
.
 
Past Medical History:
* CAD 
--s/p CABG (SVG->Diag, SVG->OM1, LIMA->LAD) ___
--s/p PCI ___ with DES to ___ graft
--by report has "4 stents"
* CHF
* h/o epistaxis
--s/p cautery by ENT
* h/o ascites and abdominal adenopathy ___
* DM
* Hyperlipidemia
* HTN
* Anemia
* h/o GIB with report of EGD ___ showing gastritis
* Hypothyroidism
* GERD
* Depression
* h/o DJD spine
 
Social History:
___
Family History:
n/c
 
Physical Exam:
Vitals T 97 P 76 Bp 131/73 RR 18 O2 96% on 3L
General Overweight man, pale but in no acute distress
HEENT Sclera white, conjunctiva pink, MMM
Neck JVP at earlobes with HOB at 30degrees, no bruits, carotids 
2+
CV Regular rate S1 S1 no m/r/g appreciated
Pulm Lungs with crackles bilateral bases and to mid lung field 
on R, no wheezing
Abd Soft, obese, +bowel sounds, nontender
Extrem Warm with 1+ bilateral lower extremity edema, 
hyperpigmentation c/w venous stasis, 2+ distal pulses
Neuro Alert and interactive
 
Pertinent Results:
___ 07:38PM BLOOD WBC-9.1 RBC-4.24* Hgb-11.0* Hct-34.2* 
MCV-81* MCH-25.9* MCHC-32.2 RDW-15.5 Plt ___
___ 07:38PM BLOOD Neuts-73.4* Bands-0 ___ Monos-6.1 
Eos-1.8 Baso-0.3
___ 07:38PM BLOOD ___ PTT-42.8* ___
___ 07:38PM BLOOD Glucose-193* UreaN-19 Creat-1.1 Na-139 
K-4.2 Cl-104 HCO3-23 AnGap-16
___ 07:38PM BLOOD ALT-18 AST-39 CK(CPK)-204* AlkPhos-78 
TotBili-0.7
___ 07:38PM BLOOD CK-MB-8 cTropnT-0.45*
___ 05:20AM BLOOD CK-MB-4 cTropnT-0.35*
___ 05:20AM BLOOD calTIBC-451 VitB12-216* Folate-14.6 
Ferritn-36 TRF-347
___ 07:38PM BLOOD %HbA1c-7.3*
___ 07:38PM BLOOD TSH-6.6*
___ 05:20AM BLOOD Free T4-1.2
___ 07:38PM BLOOD Triglyc-132 HDL-41 CHOL/HD-3.0 LDLcalc-58
.
At OSH 
___ CBC 7.9>9.5<28.9
Chem ___, Ca 8.4, Mag 1.7, Phos 3.8
___ peak CK 349, Mb 34, MBI 9.7, Tropn ___ BNP ___ B12 216, Iron 29, Ferritin 36, TRF 347, TIBC 451
___ TSH 6.6, FT4 1.2, Tchol 125, ___ 132, HDL 41, LDL58, A1c 7.3
___ C. diff toxin negative x1
.
WBC 7.4, Hb/Hct 10.7/33.8, Plts 172
Chem ___
.
EKG ___ ___:
SR @68bpm, left axis, QTC 486, RBBB. Diffuse TWIs and ST 
depressions (concordant laterally)
EKG ___: SR @95, nl axis, QTc 513, RBBB. TWIs in V1-V3 and vL. 
ST depressions in V2-V6, I,II,vL. STE in aVR. 
.
TTE ___
EF 55%, mild MR and TR
.
ETT ___t submaximal HR of 112bpm with associated >1mm ST 
depressions Moderate apical defect on MIBI (unclear if 
reversible)
EF est. 57%
.
Cardiac cath ___ OSH -- no intervention done at this time
LMCA mild diffuse
LAD ___ 100% occl.
LCX 60% mid
RCA 100% mid, but collateralized
SVG->OM1 70%
SVG->D1 occluded
LIMA->LAD distal to ___ 90%
.
ETT MIBI (___): The patient exercised for 7 minutes on a 
modified ___ protocol and stopped for progressive shortness of 
breath 
and fatigue. The estimated peak MET capacity was 4.9 which 
represents a 
poor exercise tolerance for his age. The patient denied any arm, 
neck, 
back, or chest discomfort throughout the procedure. In the 
setting of 
RBBB, the ST-T wave changes noted anteriorally are 
uninterpretable for 
ischemia. During exercise, nonspecific T wave normalization was 
noted 
inferiorally. No additional ST-T wave changes were noted in the 
lateral 
precordial leads during the procedure. The rhythm was sinus with 
rare 
isolated VPBs. The hemodynamic response to exercise was 
appropriate. IMPRESSION: Limited functional exercise tolerance. 
No anginal type 
symptoms. Anterior ST-T wave changes are uninterpretable in the 
presence 
of the RBBB. Non-specific T wave normalization noted 
inferiorally. 1.  Normal myocardial perfusion. 2.  Mild global 
hypokinesis is consistent with cardiomyopathy, perhaps from 
multi-vessel disease. Septal dyskinesis is likely post-surgical. 
 EF=48%.
.
Cardiac cath (___): Severe native vessel disease with 
patent stents.
.
TTE (___):
The left atrium is elongated. The right atrium is moderately 
dilated. There is mild symmetric left ventricular hypertrophy. 
The left ventricular cavity size is normal. Overall left 
ventricular systolic function is mildly depressed (LVEF= 40-50 
%) secondary to hypokinesis of the inferior septum, inferior 
free wall, and posterior wall. There is no ventricular septal 
defect. The right ventricular cavity is dilated with borderline 
normal free wall function. The aortic root is moderately dilated 
at the sinus level. The aortic arch is mildly dilated. There are 
focal calcifications in the aortic arch. The aortic valve 
leaflets (3) are mildly thickened but aortic stenosis is not 
present. No aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. There is no mitral valve 
prolapse. Mild to moderate (___) mitral regurgitation is seen. 
Moderate [2+] tricuspid regurgitation is seen. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion.  
 
Brief Hospital Course:
1. NSTEMI, coronary artery disease
Mr. ___ ruled in for a NSTEMI at the outside hospital and had 
been started on a heparin drip prior to transfer, but did not 
receive a GPIIbIIIa antagonist. Here, his cardiac enzymes 
continued to trend down and he had no further episodes of chest 
pain or shortness of breath. Given his significant epistaxis 
with Hct of 24 at admission, demand ischemia was an important 
consideration. The patient went to exercise stress test with 
perfusion imaging to help assess whether his chest pain 
represented severe demand ischemia in the setting of recent 
blood loss vs. an ACS event that resolved. Stress testing 
revealed depressed exercise capacity without conclusive EKG 
changes and no perfusion defects. Despite the negative stress 
test, the team was concerned about the possibility of in-stent 
restenosis so the patient was taken to cardiac catheterization. 
Cardiac cath revealed severe native vessel disease with patent 
stents. No intervention was undertaken, and the plan was to 
intensify medical management. He will continue aspirin, plavix, 
metoprolol, lisinopril, atorvastatin, and isosorbide mononitrate 
as an outpatient. The patient's lipids were under excellent 
control and A1c returned at 7.3, showing only fair diabetes 
control. The patient was given clear instructions to call and 
follow-up with his primary cardiologist and primary care 
physician in ___ next week.

2. CHF, acute on chronic, systolic
The patient's symptoms of weight gain and lower extremity edema 
were concerning for exacerbation of his known CHF. Upon 
transfer, he did have evidence of pulmonary edema on exam and on 
his chest film and was therefore diuresed with lasix. An 
echocardiogram was repeated which showed depressed systolic 
function with EF 40-50% and hypokinesis of the 
inferior/posterior LV. He will continue his beta blocker and 
ACEI and follow up with his outpatient cardiologist. At 
discharge, he was breathing comfortably on ambient air and 
ambulating independently. However as he did still appear to be 
somewhat volume overloaded, he was discharged on PO lasix, which 
he will continue as an outpatient. He was instructed to weigh 
himself daily. He will need further titration of his diuretic 
regimen as an outpatient. 

3. Anemia with acute blood loss, history of epistaxis
The patient had no significant gross bleeding in hospital, but 
did report recent epistaxis. He had been transfused with 4units 
PRBCs prior to transfer, but did not require additional 
transfusions at this admission. He apparently has required 
cautery by ENT as an outpatient. Workup of his anemia showed 
evidence of iron deficiency and also B12 deficiency, so he was 
started on both iron supplements and B12 supplementation. He 
will need to follow up with ENT and his PCP as an outpatient.

4. Heme positive stools
The patient's stools were noted to be hemoccult positive, 
possibly due to swallowed blood from his epistaxis. He did have 
history of gastritis at endoscopy in past per outside records. 
He will need to followup with his PCP for consideration of 
repeat EGD and colonoscopy to rule out other sources of GI 
bleeding.

5. Hypothyroidism
The patient was continued on his home dose of levothyroxine. His 
TSH was mildly elevated when checked here. He should have a 
thyroid function panel rechecked as an outpatient.

6. Diabetes
The patient's oral agents were held in hospital, and he was 
convered with insulin sliding scale. His HbA1c was 7.3 showing 
only fair glucose control. He should followup with his PCP for 
further adjustment to his diabetes medications.

7. Transient Heart block
On the morning of discharge, the patient had 2 dropped beats 
(consistent with Mobitz II block) without clinical sequelae 
occurring at 2AM with sleep on telemetry. This was felt likely 
secondary to high vagal tone +/- a complication of OSA. The 
patient had no other similar findings on telemetry throughout 
his hospitalization. Per discussion with EP, no further 
inpatient workup was required and he should followup with his 
cardiologist.

8. Diarrhea
The patient developed some loose stools prior to discharge, but 
abdomen was benign without fever or leukocytosis. Stool was sent 
for C. diff toxin x1, returned negative. Patient advised not to 
take anti-motility agents at home and to return should his 
diarrhea worsen, or if he were to develop abdominal pains or 
fevers. He understood this plan.
 
Medications on Admission:
ASA 81mg PO daily
Plavix 75mg PO daily
Metoprolol 50mg PO BID
Nitroglycerin 0.4mg SL prn
Norvasc 10mg PO daily
Isosorbide mononitrate 60mg PO daily
Glipizide 10mg PO BID
Janumet (sitagliptin/metformin) 1000mg PO BID
Synthroid ___ PO daily
Prilosec 20mg PO BID
Zocor 40 mg PO daily
Zoloft 50mg PO daily
KlorCon
.
Transfer
Metoprolol 25mg PO BID
Lisinopril 2.5mg PO daily
ASA 81mg PO daily
Plavix 75mg PO daily
Norvasc 10mg PO daily
Isosorbide mononitrate 60mg PO daily
Nitroglycerin drip @25mcg/min
Zocor 40mg daily
Insulin sliding scale
Synthroid ___ PO daily
Esomeprazole 40mg PO daily
 
Discharge Medications:
1. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
2. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).
Disp:*60 Tablet(s)* Refills:*2*
4. Nitroglycerin 0.4 mg Tablet, Sublingual Sig: as directed 
tablet Sublingual as directed as needed for chest pain: Take 1 
tab every 5 minutes for max 3 tablets for chest pain. If pain 
not relieved 5 minutes after 1 tab call ___. Call your doctor if 
CP resolved after 1 tab.  
5. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
6. Levothyroxine 125 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Isosorbide Mononitrate 30 mg Tablet Sustained Release 24 hr 
Sig: Three (3) Tablet Sustained Release 24 hr PO DAILY (Daily).
Disp:*90 Tablet Sustained Release 24 hr(s)* Refills:*2*
8. Omeprazole 20 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO twice a day.  
9. Glipizide 10 mg Tablet Sig: One (1) Tablet PO twice a day.  
10. Janumet 50-1,000 mg Tablet Sig: One (1) Tablet PO twice a 
day.  
11. Zoloft 50 mg Tablet Sig: One (1) Tablet PO once a day.  
12. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
13. Cyanocobalamin 2,000 mcg Tablet Sustained Release Sig: One 
(1) Tablet Sustained Release PO once a day.
Disp:*30 Tablet Sustained Release(s)* Refills:*2*
14. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
15. Lasix 80 mg Tablet Sig: One (1) Tablet PO once a day: Please 
weight yourself every day. Take an additional evening dose if 
your weight increases >3lbs and call your cardiologist Dr. ___.
Disp:*30 Tablet(s)* Refills:*2*
16. Outpatient Lab Work
Please have a complete metabolic panel (including potassium, 
BUN, Cr) and complete blood count measured within one week of 
discharge and have the results sent to Dr. ___ 
___ phone ___
17. Klor-Con M20 20 mEq Tab Sust.Rel. Particle/Crystal Sig: One 
(1) Tab Sust.Rel. Particle/Crystal PO once a day.
Disp:*30 Tab Sust.Rel. Particle/Crystal(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
1. Non ST elevation myocardial infarction
2. Coronary artery disease
3. Congestive heart failure, acute on chronic, systolic
4. Epistaxis and anemia
5. B12 deficiency, likely iron deficiency
6. Heme positive stools
Secondary
1. Hypertension
2. Diabetes mellitus
3. Hypothyroidism

 
Discharge Condition:
Good, hemodynamically stable, without chest pain and with stable 
hematocrit

 
Discharge Instructions:
You were transferred to ___ for further 
evaluation of your heart disease. At the other hospital, you had 
blood tests that showed evidence of a heart attack. This was 
treated with medicines. You underwent a stress test that showed 
no new areas of the heart with poor function. You also had a 
cardiac catheterization which showed narrowing of the coronary 
vessels, but your prior cardiac stents and grafts from the CABG 
surgery were open. You did not have any additional stents placed 
here. 
.
Your heart medicines were adjusted here, but you will need 
close, regular follow up with your home cardiologists for 
further management of your heart disease. You should also follow 
up with your ear,nose,throat specialist for further management 
of your nose bleeds. You did have evidence of blood in your 
stools by chemical testing. This may be due to swallowed blood 
from nosebleeds, but you  should follow up with your primary 
care doctor in the next month for further evaluation and 
possible repeat endoscopy studies. You were also to have low 
levels of vitamin B12, which is contributing to your anemia. 
Your thyroid function tests (TSH) were up a little bit here. You 
should have your thyroid panel repeated as an outpatient.
.
Please take your medications as directed and keep your followup 
appointments. Please adhere to your low salt diet. Weigh 
yourself every day and call your cardiologist if your weight 
increases by more than 3 pounds.
.
Call your doctor and seek medical attention at once if you 
develop:
*** worsening chest pain, shortness of breath, lightheadedness 
or dizziness, severe bleeding, black or bloody stools, worsening 
diarrhea especially if accompanied by fever or abdominal pain, 
or any other symptoms that worry you
 
Followup Instructions:
___